US06509125B1
Into 120 g of N-methyl-2-pyrrolidone were dissolved 11.5 g of 1-amylnaphthalene, and then 3.74 g of sodium amide were added to the resultant solution while the solution was stirred at room temperature. Into the solution were added 1.20 g of sodium iodide as a catalyst and 0.89 g of 2,5-di-t-butylhydroquinone as a polymerization inhibitor. Thereafter, 13.4 g of p-chloromethylstyrene were added thereto over 30 minutes. The resultant solution was stirred at room temperature for 2 hours, and then 200 ml of chloroform were added thereto and dissolved. The solution was washed 3 times with water. The solvent was removed from the chloroform phase. The residue was purified by column chromatography to yield 11.6 g of p-vinylbenzylnaphthylamine as an intermediate.

reactant | N-methyl-2-pyrrolidone | 120 g | CN1C(CCC1)=O | C5H9NO
reactant | 1-amylnaphthalene | 11.5 g | C(CCCC)C1=CC=CC2=CC=CC=C12 | C15H18
reactant | sodium amide | 3.74 g | [NH2-].[Na+]
reactant | p-chloromethylstyrene | 13.4 g | ClCC1=CC=C(C=C)C=C1 | C9H9Cl
catalyst | sodium iodide | 1.20 g | [I-].[Na+]
catalyst | 2,5-di-t-butylhydroquinone | 0.89 g | C(C)(C)(C)C1=C(O)C=C(C(=C1)O)C(C)(C)C | C14H22O2
solvent | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
product | p-vinylbenzylnaphthylamine | 11.6 g | C(=C)C1=CC=C(CNC2=CC=CC3=CC=CC=C23)C=C1 | C19H17N
